Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right arm pain, Fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is a ___ y/o male with a history of IVDU, now on suboxone 
who presented with R arm pain and fever. Patient stated that two 
weeks prior to admission, he melted his own buprenorphine and 
injected it into his right AC fossa "in order to hit me quicker" 
but that he "missed the vein". Subsequently, he had 5 days of 
pain, swelling, and redness at the injection site. He also 
developed a fever to ___ the day prior to admission, which had 
persisted upon arrival. He denied upward streaking or drainage 
from the site. He denied chest pain, cough, shortness of breath, 
worsening headaches, weakness, or joint pain.  

The patient had a history of IV heroine use, reported his last 
injection was ___ years ago. Recently, he had been living at a 
recovery house and had been on suboxone. He denied other recent 
drug or alcohol use. 

In the ED, initial vitals: 102.5 113 148/77 18 95% RA
- Exam notable for: systolic murmur; 1cm induration and erythema 
in flexural surface of R proximal forearm

- Labs notable for: WBC 9.8

- Imaging notable for: CXR and forearm XR unremarkable

- Pt given:  
___ 00:46 IV CefTRIAXone 1 gm 
___ 00:46 IVF  NS 1000 mL   
___ 00:46 PO Ibuprofen 600 mg  
___ 03:40 IV Vancomycin 1500 mg 
___ 11:14 PO Lorazepam .5 mg 
___ 12:18 SL Buprenorphine-Naloxone (8mg-2mg) 1 TAB 

- Vitals on the floor: 97.4F BP 124/74 HR 87 RR 18 99% on RA  
 
On the floor, Mr. ___ reported continued pain and redness 
over his right forearm. Also describeed ongoing fatigue. 
Otherwise, no chest pain, SOB, cough, or joint pain. 
 
REVIEW OF SYSTEMS:  
General: Positive for fevers.  
Cardiac: no chest pain or palpitations.  
Resp: no shortness of breath or cough.  
GI: no nausea, vomiting, diarrhea.  
GU: no dysuria, frequency, urgency.  
Neuro: Occasional headaches. No weakness.  
MSK: no arthralgia.  
Heme: no bleeding or easy bruising.  
Lymph: no swollen lymph nodes.  
Integumentary: no new skin rashes or lesions.  
Psych: no mood changes. 
 
Past Medical History:
- Depression w/ history of cutting
- Hx of IV heroine use on suboxone

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
#ERROR!
VITALS: 97.4F BP 124/74 HR 87 RR 18 99% on RA 
General: Alert, oriented, no acute distress. Lying comfortably 
in bed.   
HEENT: Sclerae anicteric, MMM, oropharynx clear, neck supple.
CV: Regular rate and rhythm with normal S1 + S2. II/VI SEM heard 
over RUSB, LUSB, LLSB. No rubs or gallops.
Lungs: Normal respiratory effort. Clear to auscultation 
bilaterally, no wheezes, rales, rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no guarding. 
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. 2x2cm area of erythema, warmth, induration, and 
tenderness over right AC. No ___ nodes ___ lesions. 
Skin: Warm, dry, erythema over right AC, otherwise no rashes. 
Previous cutting scars over left forearm. Multiple tattoos.   
Neuro: A&Ox3. CNII-XII grossly intact. Normal strength 
throughout. 
Mood: Normal mood and affect.   

DISCHARGE PHYSICAL EXAM:
#ERROR!
VITALS: T 97.6, BP 93/50, P 64, R 16, O2 sat 98% RA
General: Alert, NAD, lying comfortably in bed.   
HEENT: Sclerae anicteric, MMM, neck supple.
CV: Regular rate and rhythm with normal S1/S2. II/VI SEM heard 
over LLSB. No rubs or gallops.
Lungs: Normal respiratory effort. Clear to auscultation 
bilaterally, no wheezes, rales, rhonchi.  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no guarding. 
Ext: Warm, well perfused, 2+ pulses, no cyanosis or edema. 2x2cm 
area of erythema, warmth, induration, and very little tenderness 
over right AC; erythema slightly improved, induration slightly 
worse today. 
Skin: Warm, dry, mild erythema over right AC, otherwise no 
rashes. Previous cutting scars over left forearm. Multiple 
tattoos.   
Neuro: A&Ox3. CNII-XII grossly intact. Normal strength 
throughout. 
Mood: Normal mood and affect.
 
Pertinent Results:
ADMISSION PHYSICAL EXAM:
#ERROR!
___ 11:00PM BLOOD WBC-9.8 RBC-4.69 Hgb-13.6* Hct-41.0 
MCV-87 MCH-29.0 MCHC-33.2 RDW-12.2 RDWSD-39.2 Plt ___
___ 11:00PM BLOOD Neuts-63.1 ___ Monos-12.6 Eos-2.0 
Baso-0.5 Im ___ AbsNeut-6.20* AbsLymp-2.11 AbsMono-1.24* 
AbsEos-0.20 AbsBaso-0.05
___ 11:00PM BLOOD Glucose-128* UreaN-16 Creat-1.0 Na-141 
K-4.0 Cl-101 HCO3-25 AnGap-15
___ 11:21PM BLOOD Lactate-1.5

PERTINENT LABS/MICRO:
#ERROR!
___ 06:23AM BLOOD HBsAg-NEG HBsAb-Borderline HBcAb-NEG
___ 06:23AM BLOOD HIV Ab-NEG
___ 11:00PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 01:00AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

___ 01:00AM URINE Color-Straw Appear-Clear Sp ___
___ 01:00AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG

___ Blood cultures: NGTD
___ Urine culture: No growth

DISCHARGE LABS:
#ERROR!
___ 06:32AM BLOOD WBC-6.2 RBC-4.93 Hgb-14.4 Hct-42.6 MCV-86 
MCH-29.2 MCHC-33.8 RDW-12.2 RDWSD-38.5 Plt ___
___ 06:32AM BLOOD Glucose-90 UreaN-16 Creat-0.8 Na-142 
K-4.6 Cl-102 HCO3-28 AnGap-12
___ 06:32AM BLOOD Calcium-9.7 Phos-5.1* Mg-2.0

PERTINENT IMAGING:
#ERROR!
___ Right Forearm Xray:
No radiopaque foreign bodies are noted.

___ Chest Xray:
No acute cardiopulmonary process.

___ TTE:
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. No 
masses or vegetations are seen on the aortic valve. The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. No mass or vegetation is seen on the mitral 
valve. There is no pericardial effusion. 

___ MSK US RIGHT ELBOW (Preliminary Read):
Superficial thrombophlebitis at the right antecubital fossa. No 
sonographic
evidence of abscess.

IMPRESSION: No valvular vegetations or abscesses appreciated. 

 
Brief Hospital Course:
This is a ___ year old male with past medical history of IVDU on 
suboxone admitted ___ with R antecubital fossa cellulitis 
at the site of an injection drug attempt, status post 
initiation of antibiotics with subsequent improvement, imaging 
without signs of retained foreign body or abscess, able to be 
discharged home on PO antibiotics

# Sepsis secondary to R arm cellulitis 
# R arm superficial thrombophlebitis 
Patient presented with fever, erythema, pain at right 
antecubital fossa following an attempted IV injection of ground 
up suboxone.  He was found to be tachycardic.  Patient was 
initially treated broadly with vancomycin given concern for 
bacteremia (given history of recent injection).  The cellulitis 
improved and his blood cultures remained negative for > 72 
hours, with a TTE negative for any vegetations.  Patient was 
transitioned to PO doxycycline with continued clinical 
improvement.  The erythema resolved, but given persistent 
induration at the R antecubitum, he underwent ultrasound to 
rule out fluid collection--this showed a superficial 
thrombophlebitis.  Educated patient on local conservative 
management including hot compresses and elevation.  

# Opioid Use Disorder
Patient has a history of opioid use disorder and had been 
maintained on suboxone via ___ Faster Paths Program. He 
presented after trying to inject suboxone two weeks prior to 
arrival. He was continued on suboxone here without issues. 
Details of his admission were communicated to his ___ 
clinic.  

TRANSIITONAL ISSUES:
#ERROR!
[ ] Continue doxycycline 100 mg BID x 5 days (end date ___
[ ] Pt with superficial thrombophlebitis at the right 
antecubital fossa. No sonographic  evidence of abscess. Monitor 
for resolution. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL DAILY 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H Duration: 5 Days 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*7 Tablet Refills:*0 
2.  Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Sepsis secondary to R arm cellulitis 
# R arm superficial thrombophlebitis 
# Opioid Dependence 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___.

Why you were admitted to the hospital:
- You presented with pain and redness in your right arm as well 
as a fever, concerning for an infection in your skin and 
possibly in your blood stream. 

What happened while you were here:
- You were started on intravenous antibiotics to fight the 
infection
- An ultrasound of your heart did not show any problems with the 
valves in your heart
- You were eventually switched from intravenous antibiotics to 
oral antibiotics 
- An ultrasound of your arm did not show any obvious signs of 
infection, but did show a small clot in a small superficial 
vein.

What you should do once you get home:
- Please continue taking the antibiotic (doxycycline)twice 
daily, as prescribed 
- Please keep all of your appointments, details below
- Put warm packs on the clot, and this will eventually go away 
on its own.

We wish you the best!

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___